Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tetracycline / mustard / clarithromycin / adhesive / asprin / 
tetrahydrozoline
 
Attending: ___
 
Chief Complaint:
tachycardia, hypotension
 
Major Surgical or Invasive Procedure:
Bronchoscopy ___

 
History of Present Illness:
___ with PMH of IBS, breast cancer s/p lumpectomy and radiation,
and tachy-brady syndrome (afib not on AC, prescribed Eliquis but
does not take) who was admitted today for an elective
bronchoscopy w/ EBUS and TBNA for further work-up of a hilar LN. 


The procedure was uneventful but patient subsequently developed
tachycardia to the 200s with ECG showing SVT inferolateral
depressions. Patient was given her home propranolol, and 5 IV
metoprolol with improvement in HRs to the 150s but hypotension 
to
SBPs in the 60-80s. She was also given ativan for anxiety. She
was started on peripheral neo prior to transfer to the MICU.

Of note, patient has had a longstanding history of pAF with
intermittent episodes of RVR (2 last month as per patient) where
her HRs are typically in the 160s. She takes PRN propranolol
during these episodes after which her symptoms subside. She has
had a prior discussion with her cardiologist, Dr. ___ at ___,
re: anticoagulation vs. aspirin and she has deferred both
accepting the risks of stroke. 

On arrival to the MICU, patient reports feeling better. She
reports everything that occurred in the PACU made her anxious. 

 
Past Medical History:
pAF/TBS
IBS
Breast ca s/p lumpectomy/radiation
Depression/anxiety
Coronary vasospasm
 
Social History:
___
Family History:
mother B12 deficient and a abdominal aortic aneurysm and
dementia
Father dementia
Son with aortic insufficiency
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: Reviewed in MetaVision  
GEN:  NAD
HEENT: MMM 
CV:  RRR, nl S1/S2, no m/r/g
RESP:  Bibasilar crackles, otherwise 
GI:  soft, NT/ND
NEURO: AAOx3, moving all extremities with purpose 

DISCHARGE PHYSICAL EXAM
Afebrile, MAPs ___, HR 45-___ppearing NAD, sitting comfortably in chair 
NCAT MMM
Bradycardic no MRG, occasional extra beat
CTAB
Ext wwp
Alert, oriented and appropriate
 
Pertinent Results:
ADMISSION/DISCHARGE LABS
___ 03:52AM BLOOD WBC-10.0 RBC-3.79* Hgb-12.1 Hct-36.6 
MCV-97 MCH-31.9 MCHC-33.1 RDW-12.9 RDWSD-45.7 Plt ___
___ 03:52AM BLOOD Glucose-103* UreaN-12 Creat-0.8 Na-135 
K-4.4 Cl-100 HCO3-25 AnGap-10
___ 03:52AM BLOOD Calcium-9.1 Phos-4.3 Mg-1.8

IMAGING
CXR ___- Moderate cardiomegaly without consolidation or 
pneumothorax.
 
Brief Hospital Course:
Information for Outpatient Providers: ___ with PMH of IBS, 
breast cancer s/p lumpectomy and radiation, and tachy-brady 
syndrome (afib not on AC, prescribed Eliquis but does not take), 
who was admitted today for an elective bronchoscopy w/ EBUS and 
TBNA for further work-up of a lung nodule, course c/b unstable 
SVT.

ACUTE ISSUES
# Supraventricular tachycardia
HR up to the 200s post-bronchoscopy with associated hypotension 
to SBP of ___. ECG showing SVT with inferolateral depressions, 
likely trigger is procedural stress. Has an underlying history 
of tachy-brady syndrome associated with pAF, which the patient 
manages with PRN propranolol, declined AC. Given 5 mg IV 
metoprolol and home propranolol in the PACU as well as initiated 
on phenylephrine. Resolution of tachycardia and hypotension on 
arrival to the MICU. The patient returned to sinus bradycardia 
and remained asymptomatic for the remainder of her ICU stay.

# Altered mental status: The patient was noted to be confused on 
the morning of ___. Likely ICU delirium in the setting of 
anxiety, stress, and recent sedative use. It was recommended 
that the patient remain in the hospital for further monitoring 
and evaluation. The patient and her husband felt that she did 
not need to stay. As a result, the patient was discharged 
AGAINST MEDICAL ADVICE with return precautions given.

#PET-avid L hilar LN 
#S/p FB w/ EBUS/TBNA: Given history of breast cancer, concern 
for malignancy. Now s/p bronchoscopy with cytology sent.

CHRONIC ISSUES
#Anxiety: Continue home clonazepam QHS
#Asthma: Continue home inhalers

TRANSITIONAL ISSUES
[] PATIENT WAS DISCHARGED AGAINST MEDICAL ADVICE
[] will need outpatient cardiology/EP follow-up for 
consideration of future ablation vs. Ziopatch for further 
monitoring of tachy-brady syndrome
[] given bradycardia, should avoid beta blockade
[] will need to follow-up on bronchoscopy cytology and studies
[] while patient altered, patient's husband should manage home 
medications

#CODE STATUS: Full presumed
#EMERGENCY CONTACT: Name of health care proxy: ___ 
Relationship: husband 
Cell phone: ___  
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1.5 mg PO QHS 
2. Propranolol 10 mg PO DAILY:PRN tachycardia 
3. Estring (estradiol) 2 mg (7.5 mcg /24 hour) vaginal Q3 Months 

4. Albuterol Inhaler 2 PUFF IH Q6H:PRN Exercise-induced 
bronchospasm 
5. Vitamin B Complex 1 CAP PO DAILY 
6. Ascorbic Acid Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Exercise-induced 
bronchospasm  
2.  Ascorbic Acid ___ mg PO DAILY  
3.  ClonazePAM 1.5 mg PO QHS  
4.  Estring (estradiol) 2 mg (7.5 mcg /24 hour) vaginal Q3 
Months  
5.  Propranolol 10 mg PO DAILY:PRN tachycardia  
6.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Supraventricular tachycardia

Secondary:
Atrial fibrillation
Lymphadenopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I admitted to the hospital?
- You had a bronchoscopy; after the procedure you went into a 
rapid heart rhythm and your blood pressure became low

What was done while I was in the hospital?
- You were given medication to slow your heart rate and raise 
your blood pressure
- Your heart rate went back into its usual rhythm
- You were seen by the cardiologists who recommended you 
follow-up with your outpatient cardiologist to determine if you 
need a procedure to fix your heart rhythm problem

What should I do when I get home from the hospital?
- YOU ARE LEAVING THE HOSPITAL AGAINST MEDICAL ADVICE
- Continue to take your home medications as prescribed
- Make sure you follow-up with your outpatient cardiologist and 
primary care doctor
- If you have fevers, chills, palpitations, chest pain, problems 
breathing, or generally feel unwell, please call your doctor or 
go to the emergency room

Sincerely,
Your ___ Treatment Therapy
 
Followup Instructions:
___